US09172045B2
In a stream of nitrogen, a one-liter three-necked flask was charged with 75.0 g (390.6 mmol) of 2,3-dichloronitrobenzene, 47.6 g (390.6 mmol) of phenylboric acid, 9.0 g (7.8 mmol) of tetrakis(triphenylphosphine)palladium, 250 mL of tetrahydrofuran, and 518 g (976.5 mmol) of an aqueous tripotassium phosphate solution with 40 wt. % concentration. The mixture was heated under reflux for 8 hours. The reaction mixture was cooled to room temperature, and then separated into an aqueous phase and an organic phase. The organic phase was washed with an aqueous saturated ammonium chloride solution and then with an aqueous saturated sodium chloride solution. The washed organic phase was dried over anhydrous magnesium sulfate and then a solvent was distilled off under reduced pressure. The thus-obtained solid was recrystallized from ethanol to give 62.8 g of 2-nitro-6-chlorobiphenyl as a light yellow needle crystal (yield: 680).

reactant | 2,3-dichloronitrobenzene | 390.6 mmol, 75.0 g | ClC1=C(C=CC=C1Cl)[N+](=O)[O-] | C6H3Cl2NO2
reactant | phenylboric acid | 390.6 mmol, 47.6 g | C1(=CC=CC=C1)OB(O)O | C6H7BO3
reactant | tripotassium phosphate | 976.5 mmol, 518 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
catalyst | tetrakis(triphenylphosphine)palladium | 7.8 mmol, 9.0 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | tetrahydrofuran | 250 mL | O1CCCC1 | C4H8O
product | 2-nitro-6-chlorobiphenyl | 62.8 g | [N+](=O)([O-])C1=C(C(=CC=C1)Cl)C1=CC=CC=C1 | C12H8ClNO2
